US06900354B2
3-[4-(3-Cyano-benzyloxy)-phenyl]-N-methyl-acrylamide
The title compound is prepared in analogy to example 11 b) from 3-(4-hydroxy-phenyl)-N-methyl-acrylamide and 3-bromomethyl-benzonitrile. Yield=75%. Colorless solid. MS: m/e=293.2 (M++H).

reactant | 3-(4-hydroxy-phenyl)-N-methyl-acrylamide | OC1=CC=C(C=C1)C=CC(=O)NC | C10H11NO2
reactant | 3-bromomethyl-benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-[4-(3-Cyano-benzyloxy)-phenyl]-N-methyl-acrylamide | Yield=75% | C(#N)C=1C=C(COC2=CC=C(C=C2)C=CC(=O)NC)C=CC1 | C18H16N2O2
